US04326055
In a manner analogous to that described in Example 11, from p-[(E)-2-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)propenyl]-benzoic acid and ethyleneglycol there can be obtained 2-hydroxyethyl p-[(E)-2-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)propenyl]-benzoate of melting point 138°-139° C.

reactant | p-[(E)-2-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)propenyl]-benzoic acid | CC1(C=2C=CC(=CC2C(CC1)(C)C)/C(=C/C1=CC=C(C(=O)O)C=C1)/C)C | C24H28O2
reactant | ethyleneglycol | C(CO)O | C2H6O2
product | 2-hydroxyethyl p-[(E)-2-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)propenyl]-benzoate | CC1(C=2C=CC(=CC2C(CC1)(C)C)/C(=C/C1=CC=C(C(=O)OCCO)C=C1)/C)C | C26H32O3
